US08975254B2
b) Ethyl 5-(2-oxopropyl)isoxazole-3-carboxylate
Ethyl 5-(2-hydroxypropyl)isoxazole-3-carboxylate (1.5 g, 7.53 mmol) was dissolved in acetone (40 ml) and cooled to 0° C. Jones' reagent (5.90 ml, 7.91 mmol) was added dropwise and the reaction mixture was stirred at 0 C for 30 min. Then the reaction mixture was allowed to warm up to RT and stirred 18 h. Mixture of methanol (30 ml) and water (30 ml) was added and then the volatiles were evaporated. The residue was extracted with DCM, dried with Na2SO4 and evaporated to dryness to afford 1.38 g (93%) of the title compound. 1H-NMR (400 MHz; d6-DMSO): 6, 1.32 (t, 3H), 2.22 (s, 3H), 4.29-4.44 (m, 2H), 4.22 (s, 2H), 6.67 (s, 1H).

reactant | Ethyl 5-(2-hydroxypropyl)isoxazole-3-carboxylate | 7.53 mmol, 1.5 g | OC(CC1=CC(=NO1)C(=O)OCC)C | C9H13NO4
reactant | Jones' reagent | 7.91 mmol, 5.90 ml | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | methanol | 30 ml | CO | CH4O
reactant | water | 30 ml | O | H2O
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | Ethyl 5-(2-oxopropyl)isoxazole-3-carboxylate | 1.38 g, 93% | O=C(CC1=CC(=NO1)C(=O)OCC)C | C9H11NO4
